US05801148
a. (Pyrrole-2-carbonyl)-N-(benzyl)glycine-t-butyl ester
To a suspension containing 3.00 g (27.0 mmol) of pyrrole-2-carboxylic acid in 75 mL of anhydrous dichloromethane under a nitrogen atmosphere at 0° C. was added 6.96 g (27.0 mmol of BOPCl and 14.1 mL (81.0 mmol) of DIEA. After stirring for 30 minutes, 5.97 g (27.0 mmol) of N-(benzyl)glycine-t-butyl ester was added and the reaction allowed to warm to room temperature overnight. The reaction was diluted with ethyl acetate and washed with a 5% potassium hydrogensulfate, saturated sodium bicarbonate solution and brine. The organic phase was dried over magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a gradient of 100% hexane to 60% hexane/ethyl acetate to afford 2.92 g (34.4%) of the title compound is a white solid. FAB MS [M+H] m/z Calcd: 315, Found: 315.

reactant | pyrrole-2-carboxylic acid | 27.0 mmol, 3.00 g | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | BOPCl | 27.0 mmol | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | DIEA | 81.0 mmol, 14.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(benzyl)glycine-t-butyl ester | 27.0 mmol, 5.97 g | C(C)(C)(C)OC(CNCC1=CC=CC=C1)=O | C13H19NO2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Pyrrole-2-carbonyl)-N-(benzyl)glycine-t-butyl ester | 2.92 g, 34.4% | C(C)(C)(C)OC(CN(CC1=CC=CC=C1)C(=O)C=1NC=CC1)=O | C18H22N2O3
